US06486142B2
Step 3 di(tert-butyl) [2-bromo-4-[2-phenyl-2-(5-phenyl-1,2,4-oxadiazol-3-yl)ethyl]phenyl(difluoro)methyl]phosphonate
Starting with 3-benzyl-5-phenyl-1,2,4-oxadiazole and di(tert-butyl)[[2-bromo-4-(bromomethyl)phenyl](difluoro)methyl]phosphonate, the title compound was prepared as an oil by using the same procedure described in Step 3 of Example 4.

reactant | 3-benzyl-5-phenyl-1,2,4-oxadiazole | C(C1=CC=CC=C1)C1=NOC(=N1)C1=CC=CC=C1 | C15H12N2O
reactant | di(tert-butyl)[[2-bromo-4-(bromomethyl)phenyl](difluoro)methyl]phosphonate | C(C)(C)(C)OP(OC(C)(C)C)(=O)C(F)(F)C1=C(C=C(C=C1)CBr)Br | C16H23Br2F2O3P
product | di(tert-butyl) [2-bromo-4-[2-phenyl-2-(5-phenyl-1,2,4-oxadiazol-3-yl)ethyl]phenyl(difluoro)methyl]phosphonate | BrC1=C(C=CC(=C1)CC(C1=NOC(=N1)C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)P(OC(C)(C)C)(OC(C)(C)C)=O | C31H34BrF2N2O4P
